US04864028
Treatment of 2,7-difluoro-4-methyl-9H-fluorenone in acetic acid with a mixture of nitric acid and sulfuric acid gave 2,7-difluoro-4-methyl-5-nitro-9H-fluorenone as the major product. 5-Amino-2,7-difluoro-4-methyl-9H-fluorenone was obtained by reduction using tin(II)chloride in a mixture of ethanol and aqueous hydrochloric acid. Thermal decomposition in hot xylene of the diazonium tetrafluoroborate, formed with sodium nitrite in aqueous fluoboric acid, provided 2,4,7-tri-fluoro-5-methyl-9H-fluorenone. Treatment of the ketone with potassium cyanide and ammonium carbonate in ethanol at 120° C. for 18 hours provided the title compound.

reactant | 2,7-difluoro-4-methyl-9H-fluorenone | FC1C(C=2CC3=CC(=CC=C3C2C(=C1)C)F)=O | C14H10F2O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,7-difluoro-4-methyl-5-nitro-9H-fluorenone | FC1C(C=2CC3=CC(=CC(=C3C2C(=C1)C)[N+](=O)[O-])F)=O | C14H9F2NO3
